US07816557B2
Step C. Racemic 3-{4-[1-(4-Bromo-3,5-dimethyl-phenylsulfanyl)-5,5,5-trifluoro-pentyl]-benzoylamino}-propionic acid ethyl ester
Racemic 4-[1-(4-bromo-3,5-dimethyl-phenylsulfanyl)-5,5,5-trifluoro-pentyl]-benzoic acid (0.190 g, 0.410 mmol), 2-chloro-4,6-dimethoxy-1,3,5-triazine (0.0747 g, 0.430 mmol) and 4-methylmorpholine (0.050 mL, 0.430 mmol) are combined in anhydrous dichloromethane (2.0 mL) under nitrogen. The reaction is allowed to stir under nitrogen at room temperature overnight. The beta alanine ethyl ester hydrochloride (0.0695 g, 0.450 mmol) and 4-methylmorpholine (0.100 mL, 0.860 mmol) is added to the reaction mixture and allowed to stir at room temperature. Some water (<10% volume) is added to help solubility. The reaction is monitored by HPLC, and upon complete consumption of the acid, the reaction is diluted with dichloromethane. The reaction is diluted with water and rinsed with 1N hydrochloric acid. Upon acidification, the two layers are separated. The organic layer is washed with brine, dried over anhydrous sodium sulfate, and concentrated. Flash column chromatography gave the title compound (0.200 g, 0.360 mmol).

reactant | Racemic 4-[1-(4-bromo-3,5-dimethyl-phenylsulfanyl)-5,5,5-trifluoro-pentyl]-benzoic acid | 0.410 mmol, 0.190 g | BrC1=C(C=C(C=C1C)SC(CCCC(F)(F)F)C1=CC=C(C(=O)O)C=C1)C | C20H20BrF3O2S
reactant | 2-chloro-4,6-dimethoxy-1,3,5-triazine | 0.430 mmol, 0.0747 g | ClC1=NC(=NC(=N1)OC)OC | C5H6ClN3O2
reactant | 4-methylmorpholine | 0.430 mmol, 0.050 mL | CN1CCOCC1 | C5H11NO
reactant | beta alanine ethyl ester hydrochloride | 0.450 mmol, 0.0695 g | Cl.C(C)OC(CCN)=O
reactant | 4-methylmorpholine | 0.860 mmol, 0.100 mL | CN1CCOCC1 | C5H11NO
solvent | dichloromethane | 2.0 mL | ClCCl | CH2Cl2
solvent | water | O | H2O
product | Racemic 3-{4-[1-(4-Bromo-3,5-dimethyl-phenylsulfanyl)-5,5,5-trifluoro-pentyl]-benzoylamino}-propionic acid ethyl ester | 0.360 mmol, 0.200 g | C(C)OC(CCNC(C1=CC=C(C=C1)C(CCCC(F)(F)F)SC1=CC(=C(C(=C1)C)Br)C)=O)=O | C25H29BrF3NO3S
